US07858640B2
[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol (0.23 g), N,N-dimethylformamide (5.0 mL), potassium carbonate (0.11 g) and bromoacetic acid methyl ester (0.075 mL) was stirred at room temperature for 17 hours. The mixture was concentrated under reduced pressure and the residue diluted with ethyl acetate and this mixture was washed with saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:1 by volume) gave title compound, 0.11 g.

reactant | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol | 0.23 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)O | C18H15Cl2NO
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid methyl ester | 0.075 mL | COC(CBr)=O | C3H5BrO2
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)C)=O | C21H19Cl2NO3
